US07705027B2
5-(2,4-Bis-benzyloxy-5-bromo-phenyl)-isoxazole-3-carboxylic acid ethyl ester
69.3 g of 4-(2,4-Bis-benzyloxy-5-bromo-phenyl)-2,4-dioxo-butyric acid ethyl ester (0.135 mol, 1 eq) were dissolved in 750 ml ethanol. 14.11 g hydroxylamine hydrochloride (0.203 mol, 1.5 eq) were added. The mixture was refluxed for 2.5 hours and cooled down. It was then poured onto 1000 ml water, the precipitate was filtered off. The filter cake was washed with 500 ml of water followed by 75 ml diethyl ether and dried.

reactant | 4-(2,4-Bis-benzyloxy-5-bromo-phenyl)-2,4-dioxo-butyric acid ethyl ester | 0.135 mol, 69.3 g, 1 eq | C(C)OC(C(CC(=O)C1=C(C=C(C(=C1)Br)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O)=O | C26H23BrO6
reactant | hydroxylamine hydrochloride | 0.203 mol, 14.11 g, 1.5 eq | Cl.NO
reactant | water | 1000 ml | O | H2O
solvent | ethanol | 750 ml | C(C)O | C2H6O
product | 5-(2,4-Bis-benzyloxy-5-bromo-phenyl)-isoxazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NOC(=C1)C1=C(C=C(C(=C1)Br)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C26H22BrNO5
